US09227962B2
Production of 5-(1-phenyl-1H-pyrazol-5-yl)indolin-2-one
To a solution of 5-(3,3-diethoxyprop-1-ynyl)indolin-2-one (100 mg, 0.39 mmol) in acetonitrile (5 ml) were added phenyl hydrazine (38 μL, 0.38 mmol) and sulfuric acid (52 μL, 0.98 mmol), and the mixture was stirred for 3 h at room temperature, then the mixture was stirred for 2 h at 50° C. The reaction mixture was poured into water (50 mL), and the resulting precipitate was filtered and dried. The precipitated was dissolved in acetonitrile (5 mL), then water (52 μL, 3.9 mmol) and sulfuric acid (93 μL, 1.75 mmol) were added. The mixture was heated at 80 C for 4 h. The mixture was cooled to room temperature, and then neutralized with sat. NaHCO3. The mixture was extracted with CHCl3/EtOAc 3 times. The combined organic extracts were washed with sat. NaCl, dried over Na2SO4, and evaporated in vacuo. The residue purified by column chromatography (EtOAc/n-hexane) to give the title compound as a brown solid (44 mg, 41%).

reactant | 5-(3,3-diethoxyprop-1-ynyl)indolin-2-one | 0.39 mmol, 100 mg | C(C)OC(C#CC=1C=C2CC(NC2=CC1)=O)OCC | C15H17NO3
reactant | phenyl hydrazine | 0.38 mmol, 38 μL | C1(=CC=CC=C1)NN | C6H8N2
reactant | sulfuric acid | 0.98 mmol, 52 μL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 1.75 mmol, 93 μL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
solvent | water | 3.9 mmol, 52 μL | O | H2O
product | 5-(1-phenyl-1H-pyrazol-5-yl)indolin-2-one | 44 mg, 41% | C1(=CC=CC=C1)N1N=CC=C1C=1C=C2CC(NC2=CC1)=O | C17H13N3O
